* GPRv2 - generado por simular_kicad.py desde triangular.kicad_sch. No editar a mano.
C1 inv tri 2.2u
C2 mas12V 0 10u
C3 mas12V 0 100n
C4 mas12V 0 100n
R1 sq pote 8.2k
R10 Net__R10_Pad1_ Net__U2B_mas_ 680k
R11 sq Net__R11_Pad2_ 150k
R12 Net__U1C_mas_ 0 100k
R13 Net__R13_Pad1_ 0 15k
R14 Net__R14_Pad1_ Net__R10_Pad1_ 82k
R15 mas12V Net__R14_Pad1_ 6.8k
R16 Net__R11_Pad2_ Net__U1C_mas_ 150k
R17 mas12V Net__D2_A_ 2.2k
R2 Net__U1B_mas_ sq 47k
R3 tri Net__U1B_mas_ 12k
R4 mas12V Net__U2A_mas_ 100k
R5 Net__U2A_mas_ 0 100k
R6 mid Net__U2B_menos_ 100k
R7 Net__U2B_menos_ Net__JP1_A_ 100k
R8 tri Net__U2B_mas_ 100k
R9 Net__U2B_mas_ Net__R13_Pad1_ 1G
XU1A mid inv mas12V 0 tri TLC2272
XU1B Net__U1B_mas_ mid mas12V 0 sq TLC2272
XU1C Net__U1C_mas_ sync mas12V 0 sync TLC2272
XU2A Net__U2A_mas_ mid mas12V 0 mid TLC2272
XU2B Net__U2B_mas_ Net__U2B_menos_ mas12V 0 Net__JP1_A_ TLC2272
XD1 0 nz DI_1N4728A
Vz nz salida 0
D2 Net__D2_A_ 0 LEDROJO
.model LEDROJO D(IS=1e-18 N=1.8 RS=5)
RSW1 Net__J2_Pin_1_ mas12V 1m
RJP1 Net__JP1_A_ salida 1m
V12 Net__J2_Pin_1_ 0 12
Rpote pote inv {max(Rpot*pos,1m)}
.param Rpot=100k
.param pos=0
.tran 0 0.9 0 20u startup
.options method=gear
.save V(salida) V(sync) V(sq) V(tri) V(mid) I(Vz)
.lib ../TLC2272.lib
.lib ../zener_1N472xA.lib
.meas tran vmax MAX V(salida) FROM 0.54 TO 0.9
.meas tran vmin MIN V(salida) FROM 0.54 TO 0.9
.meas tran izmin MIN I(Vz) FROM 0.54 TO 0.9
.end
